US04034002
7-[2-(3-Hydroxy-3-Methyl-1-Octenyl)-3-Nitromethyl-5-Oxocyclopentyl]-5-Heptenoic Acid
A solution of 0.20 g. of 7-[8-nitromethyl-7-(3-methyl-3-hydroxy-1-octenyl)-1,4-dioxaspiro[4.4]non-6-yl]-5-heptenoic acid in 4 ml. of tetrahydrofuran was treated at 0° C. with 0.4 ml. of concentrated hydrochloric acid and stirred at 0° C. for 1.5 hours. The reaction mixture was added to water and extracted with ether. After washing with water and drying over magnesium sulfate, the extract was evaporated and the residue chromatographed on silica. Elution with 15% ethyl acetate in hexane gave 0.11 g. of the title product as an oil, λmaxfilm 3.00 (shoulder), 3.50, 5.80, 6.45, 7.25, 10.30 μ. NMR: δ 1.32 (S, 15-methyl), 4.49 (M, 2, --CH2NO2), 5.80 (M, 4, olefinic --H), 5.92 (S, 2, OH) ppm. Mass spectrum: M+ --H2O at m/e 391.2402 (theory 391.2358).

reactant | 7-[8-nitromethyl-7-(3-methyl-3-hydroxy-1-octenyl)-1,4-dioxaspiro[4.4]non-6-yl]-5-heptenoic acid | [N+](=O)([O-])CC1C(C(C2(OCCO2)C1)CC=CCCCC(=O)O)C=CC(CCCCC)(O)C | C24H39NO7
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 7-[2-(3-Hydroxy-3-Methyl-1-Octenyl)-3-Nitromethyl-5-Oxocyclopentyl]-5-Heptenoic Acid | OC(C=CC1C(C(CC1C[N+](=O)[O-])=O)CC=CCCCC(=O)O)(CCCCC)C | C22H35NO6
